US07414061B2
4-[1-(3-Chloro-phenyl)-1H-imidazol-4-yl]-3-(4-fluoro-phenyl)-5-methyl-isoxazole
As described for Example 3, 4-(1H-imidazol-4-yl)-5-methyl-3-(4-fluorophenyl)-isoxazole (73 mg, 0.3 mmol) was converted, using 3-chlorophenylboronic acid instead of 4-fluorophenylboronic acid, to the title compound (5 mg, 4%) which was obtained as an off-white solid. MS: m/e=354.6 [M+H]+.

reactant | 4-(1H-imidazol-4-yl)-5-methyl-3-(4-fluorophenyl)-isoxazole | 0.3 mmol, 73 mg | N1C=NC(=C1)C=1C(=NOC1C)C1=CC=C(C=C1)F | C13H10FN3O
reactant | 3-chlorophenylboronic acid | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
product | 4-[1-(3-Chloro-phenyl)-1H-imidazol-4-yl]-3-(4-fluoro-phenyl)-5-methyl-isoxazole | 5 mg, 4% | ClC=1C=C(C=CC1)N1C=NC(=C1)C=1C(=NOC1C)C1=CC=C(C=C1)F | C19H13ClFN3O
